* E:\Uczelnia\Semestr5\IO\Lab4\pierwszy.asc
V1 N001 0 24
V2 0 N005 24
V3 N011 0 24
V4 N002 0 24
R1 N001 N003 2380
R2 N010 0 4
R3 N008 N007 100
R_obc N002 N004 {R_ob}
XU1 N009 N006 N005 N011 N007 level.2 TL061 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XX1 N003 N010 N009 potentiometer params: R=10k,Val=50
R_pom N006 0 10
Q1 N004 N008 N006 0 NPN

* block symbol definitions
.subckt potentiometer 1 2 Out
R1 1 Out {R1}
R2 Out 2 {R2}
.param R1=R*(Val/100)
.param R2=R*(1-(Val/100))
.ends potentiometer

.model NPN NPN
.model PNP PNP
.lib C:\Users\johnb\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.step param R_ob 1 1981 1
.lib UniversalOpamps2.sub
.backanno
.end
