* E:\Uczelnia\Semestr5\IO\Lab4\przykladNPN.asc
R1 N001 N003 5000
R2 N011 0 200
R3 N008 N007 100
Q1 N004 N008 N006 0 NPN
Rpom N006 0 200
Robc N002 N004 {obc_param}
V1 N001 0 24
Xx1 N003 N011 N009 potentiometer params: R=800,Val=50
V2 N002 0 24
V3 N005 0 24
V4 0 N010 24
XU2 N009 N006 N005 N010 N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg

* block symbol definitions
.subckt potentiometer 1 2 Out
R1 1 Out {R1}
R2 Out 2 {R2}
.param R1=R*(Val/100)
.param R2=R*(1-(Val/100))
.ends potentiometer

.model NPN NPN
.model PNP PNP
.lib C:\Users\johnb\Documents\LTspiceXVII\lib\cmp\standard.bjt
* Rpot
.op
.step param obc_param 1 1791 1
* Val
.lib UniversalOpamps2.sub
.backanno
.end
